US07259177B2
{cis-3-[2-(3-Methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}-acetaldehyde
750 mg of 4-(cis-3-allylcyclohexyloxymethyl)-2-(3-methoxyphenyl)-5-methyloxazole are dissolved in 20 ml of diethyl ether, and 1.4 g of sodium periodate, dissolved in 20 ml of water, are added. At 0° C., 1 ml of an osmium tetroxide solution (2.5% by weight in tert-butanol) is added, and the mixture is stirred vigorously at room temperature. After 8 hours, 100 ml of methyl tert-butyl ether are added and the mixture is washed with a saturated sodium thiosulfate solution. The organic phase is dried over MgSO4 and the solvent is then removed under reduced pressure. This gives 740 mg of {cis-3-[2-(3-methoxyphenyl)-5-methyloxazol-4-ylmethoxy]-cyclohexyl}acetaldehyde as a yellow-brown oil. C20H25NO4 (343.43), MS(ESI): 344 (M+H+), Rf(n-heptane:ethyl acetate=2:1)=0.10.

reactant | 4-(cis-3-allylcyclohexyloxymethyl)-2-(3-methoxyphenyl)-5-methyloxazole | 750 mg | C(C=C)[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC(=CC=C1)OC | C21H27NO3
reactant | sodium periodate | 1.4 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methyl tert-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
catalyst | osmium tetroxide | 1 ml | [Os](=O)(=O)(=O)=O
product | {cis-3-[2-(3-Methoxyphenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl}-acetaldehyde | COC=1C=C(C=CC1)C=1OC(=C(N1)CO[C@H]1C[C@H](CCC1)CC=O)C | C20H25NO4
